US05478856
A mixture of 24.5 g of methyl 4,5-bis(4-methoxyphenyl)-5-oxo-3-pentenoate and 51.5 g of hydroxylamine hydrochloride in a mixture of 650 ml of methanol and 72 ml of water was heated under reflux for 23 hours. During this procedure, 0.9 equivalent of sodium bicarbonate was added portionwise to the reaction mixture as the reaction progressed. After completion of the reaction, methanol was evaporated under reduced pressure. Water and ethyl acetate were added to the residue for dissolution thereof, the organic layer was separated, washed with saturated brine and dried over anhydrous magnesium sulfate. The organic layer was then concentrated under reduced pressure and the residue was separated and purified by silica gel column chromatography (ethyl acetate:hexane=1:1) to give 23 g (yield 90%) of methyl 5-hydroxyimino-4,5-bis(4-methoxyphenyl)-3-pentenoate as an oil.

reactant | methyl 4,5-bis(4-methoxyphenyl)-5-oxo-3-pentenoate | 24.5 g | COC1=CC=C(C=C1)C(=CCC(=O)OC)C(=O)C1=CC=C(C=C1)OC | C20H20O5
reactant | hydroxylamine hydrochloride | 51.5 g | Cl.NO
reactant | sodium bicarbonate | 0.9 equivalent | C([O-])(O)=O.[Na+]
solvent | methanol | 650 ml | CO | CH4O
solvent | water | 72 ml | O | H2O
product | methyl 5-hydroxyimino-4,5-bis(4-methoxyphenyl)-3-pentenoate | 23 g, yield 90% | ON=C(C(=CCC(=O)OC)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C20H21NO5
